US04235885
(A) 2-[(Acetylthio)methyl]-4-methylpentanoyl chloride
2-[(Acetylthio)methyl]-4-methylpentanoic acid (6.0 g) is combined with thionyl chloride (5 ml). The reaction mixture is allowed to exotherm to 45° C. It is stirred at room temperature for about 16 hours and the acid chloride product is then vacuum distilled yielding 5.1 g, boiling point 80°-90° C. at 10 mm of Hg.

reactant | 2-[(Acetylthio)methyl]-4-methylpentanoic acid | 6.0 g | C(C)(=O)SCC(C(=O)O)CC(C)C | C9H16O3S
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-[(Acetylthio)methyl]-4-methylpentanoyl chloride | C(C)(=O)SCC(C(=O)Cl)CC(C)C | C9H15ClO2S
